US04933458
2-Mercaptoimidazo[4,5-b]pyridine and 2-(N-isobutyl-N-methylamino)benzyl chloride hydrochloride were reacted in an aqueous ethanol solution in the presence of sodium hydroxide to obtain 2-[2-(N-isobutyl-N-methylamino)benzylthio]imidazo[4,5-b]pyridine in the same manner as in Example 1-(2). The obtained 2-[2-(N-isobutyl-N-methylamino)benzylthio]imidazo[4,5-b]pyridine was oxidized by m-chloroperbenzoic acid in chloroform in the same manner as in Example 9-(3) to give 2-[2-(N-isobutyl-N-methylamino)benzylsulfinyl]imidazo[4,5-b]pyridine as a pale yellow crystalline product. m.p.: 116°-118° C. (decompn.)

reactant | 2-Mercaptoimidazo[4,5-b]pyridine | SC=1NC=2C(=NC=CC2)N1 | C6H5N3S
reactant | 2-(N-isobutyl-N-methylamino)benzyl chloride hydrochloride | Cl.C(C(C)C)N(C)C1=C(CCl)C=CC=C1
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 2-[2-(N-isobutyl-N-methylamino)benzylthio]imidazo[4,5-b]pyridine | C(C(C)C)N(C)C1=C(CSC=2NC=3C(=NC=CC3)N2)C=CC=C1 | C18H22N4S
